US05620994
There was dissolved 17.59 g (70 mmol) of (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazole-1-yl)methyl]oxirane in 113 g of an aqueous solution of 4-methylenepiperidine (content: 61%) and the obtained solution was refluxed with heating at 90° C. for 21 hours. After the reaction, an excess of 4-methylenepiperidine was removed under reduced pressure, and the residue was dissolved in 140 ml of isopropyl alcohol and thereto was added 13.32 g (70 mmol) of p-toluenesulfonic acid monohydrate dissolved in 50 ml of isopropyl alcohol. The obtained mixture was allowed to stand for 1 hour at room temperature and overnight in a refrigerator, and then the precipitated crystal was separated by filtration and washed with 50 ml of isopropyl alcohol and dried to obtain 32.20 g of (2R,3R)-2-(2,4-difluorophenyl)-3-(4-methylenepiperidine-1-yl)-1-(1H-1,2,4-triazole-1-yl)butane-2-ol p-toluenesulfonate in a form of a crystal.

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazole-1-yl)methyl]oxirane | 70 mmol, 17.59 g | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | p-toluenesulfonic acid monohydrate | 70 mmol, 13.32 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-methylenepiperidine | C=C1CCNCC1 | C6H11N
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | (2R,3R)-2-(2,4-difluorophenyl)-3-(4-methylenepiperidine-1-yl)-1-(1H-1,2,4-triazole-1-yl)butane-2-ol p-toluenesulfonate | 32.20 g | C1(=CC=C(C=C1)S(=O)(=O)O[C@](CN1N=CN=C1)([C@@H](C)N1CCC(CC1)=C)C1=C(C=C(C=C1)F)F)C | C25H28F2N4O3S
